US09403807B2
Step C: N-(1-(3-(4-chlorophenyl)-1-cyanopentan-3-yl)-1H-indazol-4-yl)methanesulfonamide
A mixture of (E)-N-(1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indazol-4-yl)methanesulfonamide (60 mg) and 10% Pd/C in EA (4 mL) was stirred at room temperature under H2 atmosphere for 16 h. The mixture was filtered and evaporated to give the title compound as a pale yellow solid. LC/MS m/z=417.2[M+H]+.

reactant | (E)-N-(1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indazol-4-yl)methanesulfonamide | 60 mg | ClC1=CC=C(C=C1)C(/C=C/C#N)(CC)N1N=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H19ClN4O2S
solvent | EA | 4 mL | CC(OCC)=O | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | N-(1-(3-(4-chlorophenyl)-1-cyanopentan-3-yl)-1H-indazol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(CCC#N)(CC)N1N=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H21ClN4O2S
